US04705884
A 25-ml Kjeldahl flask fitted with an air-cooling line was charged with 1.4 g of p-flurobenzoic acid, 0.976 g of cupric hydroxide, and 3 ml of tetraglyme as solvent, after which it was heated at 240° C. over an oil bath. This temperature was maintained for 60 minutes. After cooling, the reaction mixture was eluted with diethyl ether followed by filtration using Celite. the resulting filtrate was then submitted to column chromatography (solid phase: silica gel, developing solvent: hexane→methylene chloride) to give 0.013 g of m-fluorophenyl p-fluorobenzoate.

reactant | p-flurobenzoic acid | 1.4 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
solvent | tetraglyme | 3 ml | COCCOCCOCCOCCOC | C10H22O5
product | m-fluorophenyl p-fluorobenzoate | 0.013 g | FC1=CC=C(C(=O)OC2=CC(=CC=C2)F)C=C1 | C13H8F2O2
